*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1030-161
* Inductance = 160nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1030-161_freq port1 port2 PARAMS: Cpar=7.56pF Ind=0.16uH
X1 port1 port2 Model1A PARAMS:
+ R1=16.8
+ R2=0.0011
+ C= {Cpar}
+ K1=0.000391
+ K2=0.0212
+ K3= {Ind}
+ K4=0.0017
+ K5=0.000001
+ L=1.675E-07
+ Is=206.3871
+ a=0.5894
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=202.703639
.ends XAL1030-161_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1030-161
* Inductance = 160nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1030-161_sat port1 port2 PARAMS: Cpar=7.16pF Ind=0.16uH
X1 port1 port2 Model1C PARAMS:
+ R1=16.8
+ R2=0.0011
+ C= {Cpar}
+ K1=0.000391
+ K2=0.0212
+ K3= {Ind}
+ K4=0.0017
+ K5=0.000001
+ L=1.675E-07
+ Is=206.3871
+ a=0.5894
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=202.703639
.ends XAL1030-161_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1030-301
* Inductance = 300nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-120MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1030-301_freq port1 port2 PARAMS: Cpar=12pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=12.6
+ R2=0.00155
+ C= {Cpar}
+ K1=0.000029
+ K2=0.0462
+ K3= {Ind}
+ K4=0.001
+ K5=0.139
+ L=2.955E-07
+ Is=189.2447
+ a=0.5373
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=348.228968
.ends XAL1030-301_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1030-301
* Inductance = 300nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-120MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1030-301_sat port1 port2 PARAMS: Cpar=11.349pF Ind=0.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=12.6
+ R2=0.00155
+ C= {Cpar}
+ K1=0.000029
+ K2=0.0462
+ K3= {Ind}
+ K4=0.001
+ K5=0.139
+ L=2.955E-07
+ Is=189.2447
+ a=0.5373
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=348.228968
.ends XAL1030-301_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1030-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1030-561_freq port1 port2 PARAMS: Cpar=13.1pF Ind=0.56uH
X1 port1 port2 Model1A PARAMS:
+ R1=8.8
+ R2=0.0025
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0834
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=5.434E-07
+ Is=160.4034
+ a=0.5104
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=565.01523
.ends XAL1030-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1030-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1030-561_sat port1 port2 PARAMS: Cpar=13.1pF Ind=0.56uH
X1 port1 port2 Model1C PARAMS:
+ R1=8.8
+ R2=0.0025
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0834
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=5.434E-07
+ Is=160.4034
+ a=0.5104
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=565.01523
.ends XAL1030-561_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1030-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1030-102_freq port1 port2 PARAMS: Cpar=15.1pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=9.6
+ R2=0.0045
+ C= {Cpar}
+ K1=0.000001
+ K2=0.148
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=1.0167E-06
+ Is=82.4277
+ a=0.5926
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=832.890491
.ends XAL1030-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1030-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1030-102_sat port1 port2 PARAMS: Cpar=15.1pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=9.6
+ R2=0.0045
+ C= {Cpar}
+ K1=0.000001
+ K2=0.148
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=1.0167E-06
+ Is=82.4277
+ a=0.5926
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=832.890491
.ends XAL1030-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Saturation Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Current Saturable Inductor Model
*======================================================================
.subckt Model1C Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L=1
+ Is=1
+ a=1
+ PkZ=94.2 * {L} *1e6
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout flux={L*Is}*pwrs(tanh(pwrs((x/{Is}),{a})),{1/a})
.ends Model1C





*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
