*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-181
* Inductance = 180nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1060-181_freq port1 port2 PARAMS: Cpar=9pF Ind=0.18uH
X1 port1 port2 Model1A PARAMS:
+ R1=28
+ R2=0.0005
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0302
+ K3= {Ind}
+ K4=0.0017
+ K5=0.0000493
+ L=1.679E-07
+ Is=276.5245
+ a=0.6581
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=228.690865
.ends XAL1060-181_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-181
* Inductance = 180nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1060-181_sat port1 port2 PARAMS: Cpar=8.258pF Ind=0.18uH
X1 port1 port2 Model1C PARAMS:
+ R1=28
+ R2=0.0005
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0302
+ K3= {Ind}
+ K4=0.0017
+ K5=0.0000493
+ L=1.679E-07
+ Is=276.5245
+ a=0.6581
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=228.690865
.ends XAL1060-181_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-401
* Inductance = 400nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1060-401_freq port1 port2 PARAMS: Cpar=11.5pF Ind=0.4uH
X1 port1 port2 Model1A PARAMS:
+ R1=10.7
+ R2=0.0008
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0511
+ K3= {Ind}
+ K4=0.00289
+ K5=0.648
+ L=3.533E-07
+ Is=237.9666
+ a=0.5452
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=392.591263
.ends XAL1060-401_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-401
* Inductance = 400nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1060-401_sat port1 port2 PARAMS: Cpar=10.03pF Ind=0.4uH
X1 port1 port2 Model1C PARAMS:
+ R1=10.7
+ R2=0.0008
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0511
+ K3= {Ind}
+ K4=0.00289
+ K5=0.648
+ L=3.533E-07
+ Is=237.9666
+ a=0.5452
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=392.591263
.ends XAL1060-401_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1060-681_freq port1 port2 PARAMS: Cpar=12.9pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=10.9
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000001
+ K2=0.097
+ K3= {Ind}
+ K4=0.00896
+ K5=0.000001
+ L=6.112E-07
+ Is=183.333
+ a=0.5743
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=622.887303
.ends XAL1060-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1060-681_sat port1 port2 PARAMS: Cpar=12.223pF Ind=0.68uH
X1 port1 port2 Model1C PARAMS:
+ R1=10.9
+ R2=0.00135
+ C= {Cpar}
+ K1=0.000001
+ K2=0.097
+ K3= {Ind}
+ K4=0.00896
+ K5=0.000001
+ L=6.112E-07
+ Is=183.333
+ a=0.5743
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=622.887303
.ends XAL1060-681_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1060-122_freq port1 port2 PARAMS: Cpar=15.2pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=8.3
+ R2=0.0025
+ C= {Cpar}
+ K1=0.000001
+ K2=0.172
+ K3= {Ind}
+ K4=0.0146
+ K5=0.000401
+ L=1.2659E-06
+ Is=92.255
+ a=0.6912
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=959.425965
.ends XAL1060-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1060-122_sat port1 port2 PARAMS: Cpar=13.422pF Ind=1.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=8.3
+ R2=0.0025
+ C= {Cpar}
+ K1=0.000001
+ K2=0.172
+ K3= {Ind}
+ K4=0.0146
+ K5=0.000401
+ L=1.2659E-06
+ Is=92.255
+ a=0.6912
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=959.425965
.ends XAL1060-122_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1060-152_freq port1 port2 PARAMS: Cpar=12.3pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=18.6
+ R2=0.003
+ C= {Cpar}
+ K1=0.000001
+ K2=0.223
+ K3= {Ind}
+ K4=0.017
+ K5=0.00000716
+ L=0.0000014
+ Is=114.9749
+ a=0.6043
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1127.15535
.ends XAL1060-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1060-152_sat port1 port2 PARAMS: Cpar=11.522pF Ind=1.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=18.6
+ R2=0.003
+ C= {Cpar}
+ K1=0.000001
+ K2=0.223
+ K3= {Ind}
+ K4=0.017
+ K5=0.00000716
+ L=0.0000014
+ Is=114.9749
+ a=0.6043
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1127.15535
.ends XAL1060-152_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1060-222_freq port1 port2 PARAMS: Cpar=14.6pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=5.79
+ R2=0.0045
+ C= {Cpar}
+ K1=0.000001
+ K2=0.299
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=2.1699E-06
+ Is=76.7026
+ a=0.6051
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1493.49535
.ends XAL1060-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1060-222_sat port1 port2 PARAMS: Cpar=14.6pF Ind=2.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=5.79
+ R2=0.0045
+ C= {Cpar}
+ K1=0.000001
+ K2=0.299
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=2.1699E-06
+ Is=76.7026
+ a=0.6051
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1493.49535
.ends XAL1060-222_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1060-332_freq port1 port2 PARAMS: Cpar=13.8pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=11
+ R2=0.0072
+ C= {Cpar}
+ K1=0.000001
+ K2=0.382
+ K3= {Ind}
+ K4=0.035
+ K5=0.0000898
+ L=3.3326E-06
+ Is=65.4822
+ a=0.6115
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1730.6656
.ends XAL1060-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1060-332_sat port1 port2 PARAMS: Cpar=12.679pF Ind=3.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=11
+ R2=0.0072
+ C= {Cpar}
+ K1=0.000001
+ K2=0.382
+ K3= {Ind}
+ K4=0.035
+ K5=0.0000898
+ L=3.3326E-06
+ Is=65.4822
+ a=0.6115
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1730.6656
.ends XAL1060-332_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1060-472_freq port1 port2 PARAMS: Cpar=17.3pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=3.5
+ R2=0.00975
+ C= {Cpar}
+ K1=0.000001
+ K2=0.8
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=4.9076E-06
+ Is=70.2056
+ a=0.5562
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3221.33355
.ends XAL1060-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1060-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1060-472_sat port1 port2 PARAMS: Cpar=17.3pF Ind=4.7uH
X1 port1 port2 Model1C PARAMS:
+ R1=3.5
+ R2=0.00975
+ C= {Cpar}
+ K1=0.000001
+ K2=0.8
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=4.9076E-06
+ Is=70.2056
+ a=0.5562
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3221.33355
.ends XAL1060-472_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Saturation Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Current Saturable Inductor Model
*======================================================================
.subckt Model1C Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L=1
+ Is=1
+ a=1
+ PkZ=94.2 * {L} *1e6
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout flux={L*Is}*pwrs(tanh(pwrs((x/{Is}),{a})),{1/a})
.ends Model1C





*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
